US09447106B2
To a suspension of 2-(4-phenoxyphenyl)-4H-pyrazolo[1′,5′:1,2]imidazo[4,5-c]pyridine-3-carbox-amide (2.46 g, 0.0067 mol) in 150 mL of THF was added benzyl bromide (1.14 g, 0.0067 mol) dropwise, then the mixture was stirred at 65° C. overnight. After cooling down to RT, the mixture was concentrated, the residue was suspended in 150 mL of MeOH, NaBH4 (10 g, 0.26 mol) was added portionwise. The mixture was stirred at RT overnight. To the reaction was added 200 mL of water followed by 200 mL of DCM. The aqueous phase was further extracted with 100 mL of DCM. The combined organic layers were washed with brine, dried over Na2SO4 and concentrated to get the crude product which was chromatographed on 10 g of silica gel using DCM/MeOH (200/1 to 80/1) as eluant to afford 0.786 g (26%) of 6-benzyl-2-(4-phenoxyphenyl)-5,6,7,8-tetrahydro-4H-pyrazolo[1′,5′:1,2]imidazo[4,5-c]pyridine-3-carboxamide as a tan foam. MS (ESI) m/e [M+1]+ 463.9.

reactant | 2-(4-phenoxyphenyl)-4H-pyrazolo[1′,5′:1,2]imidazo[4,5-c]pyridine-3-carbox-amide | 0.0067 mol, 2.46 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=NN2C(NC=3C=NC=CC32)=C1C(=O)N | C21H15N5O2
reactant | benzyl bromide | 0.0067 mol, 1.14 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | NaBH4 | 0.26 mol, 10 g | [BH4-].[Na+]
reactant | water | 200 mL | O | H2O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | 6-benzyl-2-(4-phenoxyphenyl)-5,6,7,8-tetrahydro-4H-pyrazolo[1′,5′:1,2]imidazo[4,5-c]pyridine-3-carboxamide | 0.786 g, 26% | C(C1=CC=CC=C1)N1CC2=C(CC1)N1C(N2)=C(C(=N1)C1=CC=C(C=C1)OC1=CC=CC=C1)C(=O)N | C28H25N5O2
